US06057332
3-Phenylpropyl 4-(3,4-dichlorophenyl)-2-(4-methoxyphenyl)methylthio-6-[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate
A mixture of 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate (1.0 g, 2.88 mmol), 3,4-dichlorobenzaldehyde (0.60 g, 3.45 mmol), 2-(4-methoxybenzyl)isothiourea (0.80 g, 3.45 mmol) and sodium hydrogen carbonate (0.29 g, 3.45 mmol) was stirred in N,N-dimethylformamide (10 mL) for 6 days at room temperature, then heated to 50° C. for 7 days. The DMF was removed in vacuo and ethyl acetate was added to the residue. The precipitate was removed by filtration and the filtrate was washed with water, sodium hydrogen carbonate solution and brine, dried and evaporated to yield an oil. This oil was further purified by flash chromatography to give the title compound (0.50 g) as an oil. The oil can be converted into a mono or dihydrochloride salt, by dissolution in ether and addition of one or two equivalents of hydrogen chloride. Electrospray MSm /z 682/684 [M+H]+.

reactant | 3-phenylpropyl 4-(2-(1-piperidinyl)ethoxy)acetoacetate | 2.88 mmol, 1.0 g | N1(CCCCC1)CCOCC(CC(=O)OCCCC1=CC=CC=C1)=O | C20H29NO4
reactant | 3,4-dichlorobenzaldehyde | 3.45 mmol, 0.60 g | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
reactant | 2-(4-methoxybenzyl)isothiourea | 3.45 mmol, 0.80 g | COC1=CC=C(CSC(N)=N)C=C1 | C9H12N2OS
reactant | sodium hydrogen carbonate | 3.45 mmol, 0.29 g | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-Phenylpropyl 4-(3,4-dichlorophenyl)-2-(4-methoxyphenyl)methylthio-6-[(2-(1-piperidinyl)ethoxy)methyl]-1,4-dihydropyrimidine-5-carboxylate | 0.50 g | ClC=1C=C(C=CC1Cl)C1N=C(NC(=C1C(=O)OCCCC1=CC=CC=C1)COCCN1CCCCC1)SCC1=CC=C(C=C1)OC | C36H41Cl2N3O4S
